US06835856B2
Synthesis of CF3—(CF2)6—CF2O—CFCl—CF2Cl
19.65 g of CF3—OCFCl—CF2Cl as solvent, 23.07 g of CFCl═C—FCl (CFC 1112) and 7.57 g of CF3—(CF2)6—COF are introduced into the equipment described in the Example 1. The reaction mixture is maintained at the temperature of −55° C. and 1.5 Nl/h of fluorine diluted with nitrogen (molar ratio fluorine/nitrogen 1/5) are fed therein for 110 minutes.

reactant | CF3—(CF2)6—COF | 7.57 g | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(=O)F | C8F16O
reactant | fluorine | FF | F2
reactant | CF3—OCFCl—CF2Cl | 19.65 g | C(F)(F)(F)OC(F)(Cl)C(F)(F)Cl | C3Cl2F6O
product | CF3—(CF2)6—CF2O—CFCl—CF2Cl | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)OC(F)(Cl)C(F)(F)Cl | C10Cl2F20O
